US08623889B2
Step 4: 2-chloro-5-((5-fluoro-4-methylpyridin-3-yl)ethynyl)isonicotinaldehyde oxime
A mixture of 2-chloro-5-((5-fluoro-4-methylpyridin-3-yl)ethynyl)isonicotinaldehyde (385 mg, 1.4 mmol), hydroxylamine hydrochloride (107 mg, 1.54 mmol), and sodium acetate (138 mg, 1.68 mmol) in ethanol (5 mL) was stirred at 40° C. for 30 minutes. The reaction mixture was then evaporated in vacuo, re-dissolved in DCM and methanol and washed with water (15 mL). The organic layer was separated, dried over sodium sulfate, filtered, and concentrated in vacuo to afford the title compound as a pale yellow solid that was used in the next step without further purification.

reactant | 2-chloro-5-((5-fluoro-4-methylpyridin-3-yl)ethynyl)isonicotinaldehyde | 1.4 mmol, 385 mg | ClC=1C=C(C=O)C(=CN1)C#CC=1C=NC=C(C1C)F | C14H8ClFN2O
reactant | hydroxylamine hydrochloride | 1.54 mmol, 107 mg | Cl.NO
reactant | sodium acetate | 1.68 mmol, 138 mg | C(C)(=O)[O-].[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 2-chloro-5-((5-fluoro-4-methylpyridin-3-yl)ethynyl)isonicotinaldehyde oxime | ClC=1C=C(C=NO)C(=CN1)C#CC=1C=NC=C(C1C)F | C14H9ClFN3O
